US07482456B2
Step 1: 5-bromo-N′-hydroxypyridine-3-carboximidamide
A mixture of 3-bromo-5-cyanopyridine (1.0 eq), hydroxylamine hydrochloride (1.5 eq.), K2CO3 (2.1 eq) in ethanol (0.1 M) was stirred at 80° C. for 3 days. The mixture was concentrated, diluted with EtOAc and aqueous NaHCO3. The title compound was isolated by filtration as beige solid.

reactant | 3-bromo-5-cyanopyridine | 1.0 eq | BrC=1C=NC=C(C1)C#N | C6H3BrN2
reactant | hydroxylamine hydrochloride | 1.5 eq. | Cl.NO
reactant | K2CO3 | 2.1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 0.1 M | C(C)O | C2H6O
product | 5-bromo-N′-hydroxypyridine-3-carboximidamide | BrC=1C=C(C=NC1)C(N)=NO | C6H6BrN3O
